US05280032
6.0 g of 6-benzyloxy-2-naphthaldehyde was dissolved in 60 ml of tetrahydrofuran. The solution was cooled to -30° C. Thereto was dropwise added, in 10 minutes, 30 ml of a tetrahydrofuran solution containing 1.6M of 2-chloroethoxymethylmagnesium chloride. The resulting mixture was stirred for 1 hour with ice cooling. The reaction mixture was added to a mixture of 100 ml of ice water, 100 ml of ethyl acetate and 3.6 g of ammonium chloride. The mixture was adjsuted to pH 2 with 6N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium chloride. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: toluene/ethyl acetate=20/1) to obtain a solid. To the solid was added 10 ml of diisopropyl ether. The resulting mixture was stirred at room temperature for 1 hour. The resulting crystals were collected by filtration and dried to obtain 4.7 g of 1-(6-benzyloxy-2-naphthyl)-2-(2-chloroethoxy)ethanol.

reactant | 6-benzyloxy-2-naphthaldehyde | 6.0 g | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)C=O | C18H14O2
reactant | 2-chloroethoxymethylmagnesium chloride | 1.6M | ClCCOC[Mg]Cl
reactant | ammonium chloride | 3.6 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | diisopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(6-benzyloxy-2-naphthyl)-2-(2-chloroethoxy)ethanol | 4.7 g | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)C(COCCCl)O | C21H21ClO3
